datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[OH:21][C:20]1(C)[OH+:10]C([H])C(C)=C1C>>[OH:10]C([H])/C(C)=C([C:20](C)=[OH+:21])/C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"C1(C([O:21][C:20](O1)([O-:10])OCC)C1=CC=CC=C1)C>>C(C(O[C:20](=[O:10])OCC)C)([O-:21])C1=CC=CC=C1 10=20;20,21=21"
"C[O:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[NH]C 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[S]C7=CC=CC=C7 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(C)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C([H])[CH](C)[S]1 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)[H])[O-:10])[H]>>CN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)[H])[H] 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[O:10]([Na])C([H])C(O)C([C:20]([H])=[O:21])O>>[O-:21][C:20]1([H])[O+:10]([Na])C([H])C(O)C1O 10=20;20,21=21"
"[H][NH:10]C([H])C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"[O:10]([Na])C(CC)C(O)C([C:20](C)=[O:21])C>>[O-:21][C:20]1(C)[O+:10]([Na])C(CC)C(O)C1C 10=20;20,21=21"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[O:10]([K])C(CC)C([H])C(C)C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C(C)C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[NH][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[NH]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[NH:10](C)C(C1=C(C([CH:20](OC)=[O:21])[H])C=CC=C1)C>>[O-:21][CH:20]2(OC)C(C3=C(C([NH+:10]2(C))C)C=CC=C3)[H] 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C)[O][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)[H])CCCCCC>>CCN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)[H])[O-:10])CCCCCC 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C)CCCCCC.[O-:21]CC 10=20;20,21=21"
"[NH:10]([H])C(C)/C([H])=C(C)\C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(C)=C([H])C(C)[NH+:10]1([H]) 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21][H])C1=CC=CC=C1)CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CC.[O-:21][H] 10=20;20,21=21"
"CC1C(C(O[C:20](N1CC)([O-:10])[Cl:21])C)[H]>>CC1C(C(O[C:20](=[O:10])N1CC)C)[H].[Cl-:21] 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)CCCCCC.[O-:21]CC>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"[NH:10](C)C(C)C(O)C([C:20](OC)=[O:21])C>>[O-:21][C:20]1(OC)[NH+:10](C)C(C)C(O)C1C 10=20;20,21=21"
"[H][O+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(CC)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(CC)[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C([H])C(CC)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S]C([H])C(CC)[S]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(CC)C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(CC)C([H])[O]1 10=20;20,21=21"
"[O:10]([Na])C(CCC)/C([H])=C([C:20](OC)=[O:21])/[H]>>[O-:21][C:20]1(OC)[O+:10]([Na])C(CCC)C([H])=C1[H] 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]([O:21][H])([O]CC)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10][H].[H][O+:21]=[C:20]([O]CC)[S]C7=CC=CC=C7 21=20;20,10=10"
